Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Sulfa (Sulfonamides) / Lisinopril / Reglan
 
Attending: ___
 
Chief Complaint:
Nausea, diaphoresis, SOB
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with h/o active CLL who presented to ___ service for cycle 4 
Fludarabine, Cytoxan, Rituxan this morning. Upon starting the 
IV, she the patient reported shortness of breath and 
diaphoresis, however no chest pain, nausea, or vomiting. Pt's 
episode lasted 15 minutes, but was referred to the ER for 
further evaluation.  
.  
In the ED, patient's VS were 95.9 65 164/52 14 100%. Pt was 
given ASA 325 mg x 1. Patient's symptoms were self limited, and 
___ 2. Patient's ECG compared to the AM showed biphasic T 
waves in V1-2, so was admitted for further evaluation.  
.  
The patient reports that she feels comfortable and no longer has 
her symptoms. she reports that she has some chest vs epigastric 
discomfort a couple of months ago which was relieved by NTG x 1. 
Her exercise tolerence has decreased significantly over the past 
year. She states that she is winded after walking around the 
grocery store and can develop associated diaphoresis. She denies 
any chest pain with exertion.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
1. CLL (___) - Initial asymptomatic leukocytosis (18.6) in  
___ and ___ (22, 60% lymphocytes). Immunophenotyping of  
peripheral blood consistent with CLL (+ for CD5, CD19-dim, CD20  

and CD23 and - for CD10 and FCM7).  
2. Hypertension  
3. Hyperlipidemia  
4. Cataract surgery  
5. CAD s/p CABG in ___  
6. Sciatica s/p L4-L5 laminectomy  
7. Cholecystitis s/p gallbladder removal (___)  
8. Appendicitis s/p appendectomy (___)  
9. "gynecologic mass" s/p uterine hysterectomy, ovaries still in 
 
tact (___)  
10. Osteoarthritis s/p bilateral total knee replacement.  
11. Community Acquired Pneumonia (___) c/b Cdiff  
(___)  
12. Diet controlled diabetes: HbA1c 6.3  

 
Social History:
___
Family History:
Notable for a mother who died of lung cancer. Father had died of 
 
an MI.  
 
Physical Exam:
98.3, 130-151/55-73, P:63-64, 18, 99%RA  
Gen: WDWN elderly female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 6cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 06:05PM   cTropnT-<0.01

___ 12:56PM   LACTATE-2.1* K+-3.8
___ 12:45PM   GLUCOSE-106* UREA N-17 CREAT-0.9 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-24 ANION GAP-17
___ 12:45PM   cTropnT-<0.01
___ 12:45PM   WBC-9.9 RBC-3.76* HGB-11.9* HCT-34.8* MCV-93 
MCH-31.6 MCHC-34.2 RDW-19.4*
___ 12:45PM   NEUTS-86.2* LYMPHS-5.0* MONOS-7.6 EOS-0.5 
BASOS-0.8
___ 12:45PM   PLT SMR-NORMAL PLT COUNT-183
___ 08:50AM   UREA N-18 CREAT-1.0 SODIUM-142 POTASSIUM-5.1 
CHLORIDE-105 TOTAL CO2-31 ANION GAP-11
___ 08:50AM   ALT(SGPT)-24 AST(SGOT)-29 LD(LDH)-178 ALK 
PHOS-112* TOT BILI-0.3
___ 08:50AM   WBC-8.4# RBC-3.68* HGB-11.3* HCT-34.4* MCV-93 
MCH-30.6 MCHC-32.8 RDW-18.0*
___ 08:50AM   NEUTS-86.8* LYMPHS-5.3* MONOS-6.7 EOS-0.8 
BASOS-0.4
___ 08:50AM   PLT COUNT-197
 
Brief Hospital Course:
#SOB, nausea, diaphoresis:  Patient with a history of CABG in 
___. Although patient's history was atypical for ACS, she was 
given stress test in the setting of  her remote history of CABG 
and decreased exercise tolerence. Troponins were negative x2. 
Her ECG showed non-specific T wave changes when patient was 
asymptomatic. pMIBI showed no areas of ischemia or 
hypoperfusion. She was continued on her outpatient ASA 325mg 
daily and simvastatin 40 mg po qD. 
.  
#. Hypertension: Patient was mildly hypertensive to 151/71. Her 
home Atenolol was held for persantine study but was restarted on 
discharge. 
.  
#. CLL: Patient is s/p 3 rounds of chemotherapy and is currently 
awaiting ___ round of chemotherapy.  She was continue on 
Acylovir and PO Vancomycin (on this for prophylaxis in setting 
of prior CDiff). Dr. ___ was notified of her inpatient 
status. 
 
Medications on Admission:
ACYCLOVIR 400mg tid  
ALLOPURINOL - 300 mg daily  
AMLODIPINE - 5 mg Tablet daily  
ATENOLOL - 50 mg Tablet daily  
CITALOPRAM - 40 mg Tablet daily  
HYDROMORPHONE 2 mg q 4hrs prn  
NITROGLYCERIN prn  
OMEPRAZOLE 40mg bid prn  
ONDANSETRON 4 mg q8h prn  
PENTAMIDINE 300 mg INH monthly  
SIMVASTATIN 40 mg daily  
VANCOMYCIN 125 mg bid  
ZOLPIDEM 5 mg Tablet qhs  
ASPIRIN 325 mg qday  
CALCIUM CARBONATE  
DOCUSATE 100 mg BID  
IBUPROFEN 200 mg ___ Tablet(s) q6 hours prn  
MECLIZINE 25MG daily prn vertigo  
SENNA 8.6 mg qday 
 
Discharge Medications:
1. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
2. Allopurinol ___ mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
5. Atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
7. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1)  
Sublingual prn as needed for chest pain.  
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
9. odansetron  Sig: One (1) 4 mg   three times a day as needed 
for nausea.  
10. Pentamidine 300 mg Recon Soln Sig: One (1)  Inhalation once 
a month.  
11. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
13. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

14. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constip.  
16. Calcium Carbonate  Oral
17. Vancomycin 125 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
18. Meclizine 25 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for vertigo.  
19. Ibuprofen 200 mg Capsule Sig: ___ Capsules PO every six (6) 
hours as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Atypical Chest Pain

Secondary: Chronic Lymphocytic Leukemia, Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for work-up of chest pain. 
Your electrocardiogram and blood work did not indicate that you 
were having a heart attack. You had a stress test that was 
unchanged from your prior stress tests again indicating that you 
have good blood flow to your heart.

No changes made to your medications
 
Followup Instructions:
___